US08022205B2
In the same manner as Example 1-B-10, using 4-chloro-2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine, and 2,4-difluoro-3-formylphenylboronic acid as a boronic acid, 2,6-difluoro-3-(2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-benzaldehyde was obtained. Methanol and sodium borohydride were added, which was stirred at room temperature for 1 hour, followed by elution with 2M ammonia methanol solution through SCX resin and then concentration. Purification by preparative TLC afforded the desired compound as a colorless solid.

reactant | 4-chloro-2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C2=CC=NC=C2 | C15H16ClN5O
reactant | 2,4-difluoro-3-formylphenylboronic acid | FC1=C(C=CC(=C1C=O)F)B(O)O | C7H5BF2O3
reactant | boronic acid | B(O)O | BH3O2
product | 2,6-difluoro-3-(2-morpholin-4-yl-7-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-benzaldehyde | FC1=C(C=O)C(=CC=C1C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C2=CC=NC=C2)F | C22H19F2N5O2
